US04772600
A suspension of 4.4 g (0.0133 mole) of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid, 2.2 g (0.0133 mole) of 1,1'-carbonyldiimidazole, and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through the mixture for 3 hours. To the resulting solution was added dropwise a solution of 1.3 g (0.0133 mole) of N-methylpiperazine in 10 ml of tetrahydrofuran. The reaction mixture was stirred at room temperature for 18 hours. The tetrahydrofuran was evaporated and the residue taken up in methylene chloride (75 ml) and washed with water (3×25 ml). The methylene chloride solution was dried over sodium sulfate and concentrated in vacuo. The residue was converted to the fumarate salt and crystallized from ethanol-ethyl acetate, giving 6.5 g. Recrystallization from ethanol-ethyl acetate and then from isopropyl alcohol-isopropyl ether gave 3.2 g (45%) of white solid, mp 203°-203.5° C. with decomposition.

reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0133 mole, 4.4 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0133 mole, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylpiperazine | 0.0133 mole, 1.3 g | CN1CCNCC1 | C5H12N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | isopropyl alcohol isopropyl ether | C(C)(C)O.C(C)(C)OC(C)C | InChI=1S/C6H14O.C3H8O/c1-5(2)7-6(3)4;1-3(2)4/h5-6H,1-4H3;3-4H,1-2H3
